US08309546B2
Step 2: 5-{8-[(3R)-3-Ethylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine
Diisopropylethylamine (1.91 ml, 10.98 mmol) was added to an N-methyl-2-pyrrolidone suspension (5 ml) of 2-(R)-ethylpiperazine-2-hydrochloride (751 mg) and 2-(2-aminopyrimidin-5-yl)-8-chloro-6-(morpholin-4-yl)-9-(2,2,2-trifluoroethyl)-9H-purine (506 mg, 1.22 mmol) and the resulting mixture was heated at 100° C. and stirred for 5 days. Water was added to the reaction mixture and the resulting mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with water and saturated brine, and dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel chromatography (chloroform:methanol=97:3 to 90:10) to give the title compound (562 mg) as a pale yellow solid.

reactant | Diisopropylethylamine | 10.98 mmol, 1.91 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-(2-aminopyrimidin-5-yl)-8-chloro-6-(morpholin-4-yl)-9-(2,2,2-trifluoroethyl)-9H-purine | 1.22 mmol, 506 mg | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)Cl)N1CCOCC1 | C15H14ClF3N8O
solvent | Water | O | H2O
product | 5-{8-[(3R)-3-Ethylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 562 mg | C(C)[C@@H]1CN(CCN1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C21H27F3N10O
